US06511995B1
According to the same manner as that described in Example 1 except for using an equimolar amount of 3,4-difluorobenzoic acid in place of 3,4-dichlorobenzoic acid and using an equimolar amount of 6-[(2,3-dihydro-1H-inden-5-yl)oxy]-3-pyridinylamine obtained in Reference Example 19 in place of 4-[(5-amino-2-pyridinyl)oxy]-1-indanone, the reaction was carried out to obtain the titled compound.

reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | 6-[(2,3-dihydro-1H-inden-5-yl)oxy]-3-pyridinylamine | C1CCC2=CC(=CC=C12)OC1=CC=C(C=N1)N | C14H14N2O
product | 4-[(5-amino-2-pyridinyl)oxy]-1-indanone | NC=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H12N2O2
